US08236793B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-4-methoxy-benzamide hydrochloric acid salt (Compound G7)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 4-methoxybenzoyl chloride. Mp. >275° C.

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-4-methoxy-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)OC)=O | InChI=1S/C21H25N3O2.ClH/c1-26-20-8-2-16(3-9-20)21(25)22-17-4-6-18(7-5-17)24-15-14-23-12-10-19(24)11-13-23;/h2-9,19H,10-15H2,1H3,(H,22,25);1H
